US04385070
(a) Preparation of 2,3,5,6-tetrafluorotoluene
A solution of n-butyllithium in hexane (1.6 M, 62.5 ml) was added dropwise to a well stirred solution of 1,2,4,5-tetrafluorobenzene (15.0 g) in dry tetrahydrofuran (150 ml) maintained at a temperature of -60° C. under an atmosphere of dry argon. When the addition was complete the mixture was stirred at -45° C. for 2 hours and then methyl iodide (14.2 g) was added dropwise whilst the temperature was kept at -45° C. After a period of 30 minutes the mixture was allowed to warm to the ambient temperature, poured into distilled water and the mixture extracted with diethyl ether (2×50 ml), and the extracts dried over anhydrous magnesium sulphate. After filtering the solution was concentrated by evaporation of the solvents at atmospheric pressure. The residual oil was distilled and the fraction boiling in the range 115°-122° C. at atmospheric pressure (6.2 g) collected, identified by n.m.r. and gas chromatographic analysis as consisting of ca. 95% of the required 2,3,5,6-tetrafluorotoluene and ca. 5% of 2,3,5,6-tetrafluoro-1,4-xylene.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,2,4,5-tetrafluorobenzene | 15.0 g | FC1=C(C=C(C(=C1)F)F)F | C6H2F4
reactant | methyl iodide | 14.2 g | CI | CH3I
solvent | hexane | 1.6 M, 62.5 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2,3,5,6-tetrafluorotoluene | FC1=C(C(=C(C=C1F)F)F)C | C7H4F4
